US06727387B2
N,N,N-Trimethyl t-octyl ammonium bromide:
The procedure given in the previous example was followed. Starting with a solution of N,N-dimethyl t-octylamine (5 g, 31.8 mmol) in dichloromethane (5 mL) and methyl bromide (2.0 M solution in t-butyl methyl ether, 42.8 mL, 85.6 mmol), product was obtained as a white solid (7.2 g (90%)). 1H NMR (CDCl3): δ3.35 (s, 9H, —N+(CH3)3), 1.79 (s, 2H, —CH2—), 1.60 (bt, 6H, —C(CH3)2—), 1.11 (s, 9H, —C(CH3)3) ppm.

reactant | N,N-dimethyl t-octylamine | 31.8 mmol, 5 g | CN(C)C(C)(C)CC(C)(C)C | C10H23N
reactant | methyl bromide | 85.6 mmol, 2.0 M, 42.8 mL | CBr | CH3Br
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N,N,N-Trimethyl t-octyl ammonium bromide | [Br-].C[N+](C)(C)C(C)(C)CC(C)(C)C | InChI=1S/C11H26N.BrH/c1-10(2,3)9-11(4,5)12(6,7)8;/h9H2,1-8H3;1H/q+1;/p-1
